US07459562B2
4-(4-Amino-2-fluorophenoxy)pyridin-2-amine dihydrochloride (50 mg, 0.17 mmol) was coupled with 2-(4-fluorobenzylsulfonyl)acetic acid (33 mg, 0.14 mmol) in a manner similar to that which is described in Step C of Example 1 to give 2-(4-fluorobenzylsulfonyl)-N-(4-(2-aminopyridin-4-yloxy)-3-fluorophenyl)acetamide, hydrochloride salt (30 mg, 45% yield). 1H NMR (DMSO-d6) δ 13.40 (s, 1H), 11.15 (s, 1H), 7.97 (d, 1H, J=7.0 Hz), 7.80-7.90 (m, 3H), 7.47 (m, 4H), 7.26 (t, 2H, J=8.5 Hz), 6.72 (d, 1H, J=7.0 Hz), 6.14 (d, 1H, J=2.0 Hz), 4.69 (s, 2H), 4.27 (s, 2H); MS(ESI+): m/z 434.15 (M+H)+.

reactant | 4-(4-Amino-2-fluorophenoxy)pyridin-2-amine dihydrochloride | 0.17 mmol, 50 mg | Cl.Cl.NC1=CC(=C(OC2=CC(=NC=C2)N)C=C1)F
reactant | 2-(4-fluorobenzylsulfonyl)acetic acid | 0.14 mmol, 33 mg | FC1=CC=C(CS(=O)(=O)CC(=O)O)C=C1 | C9H9FO4S
product | 2-(4-fluorobenzylsulfonyl)-N-(4-(2-aminopyridin-4-yloxy)-3-fluorophenyl)acetamide, hydrochloride salt | 30 mg, 45% yield | Cl.FC1=CC=C(CS(=O)(=O)CC(=O)NC2=CC(=C(C=C2)OC2=CC(=NC=C2)N)F)C=C1 | InChI=1S/C20H17F2N3O4S.ClH/c21-14-3-1-13(2-4-14)11-30(27,28)12-20(26)25-15-5-6-18(17(22)9-15)29-16-7-8-24-19(23)10-16;/h1-10H,11-12H2,(H2,23,24)(H,25,26);1H
